US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a suspension of tert-butyl 4-{4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]phenyl}piperazine-1-carboxylate (610 mg, 1.02 mmol) in dichloromethane (6 mL) was added trifluoroacetic acid (2 mL). The reaction was stirred (rt) for 17 h. The mixture was evaporated to dryness and saturated aqueous NaHCO3 was added to the residue. The resulting solid was collected by filtration and was dried in vacuo to afford 489 mg (96%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.99-7.91 (m, 3 H), 7.81 (d, 1 H), 7.65 (s, 1 H), 7.41-7.25 (m, 5 H), 7.19 (d, 1 H), 7.06-6.96 (m, 3 H), 5.65 (s, 2 H), 3.14 (s, 4 H), 2.89 (s, 4 H); ES-MS m/z 501.4 HPLC RT (min) 2.25.

reactant | tert-butyl 4-{4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]phenyl}piperazine-1-carboxylate | 1.02 mmol, 610 mg | NC1=NC=NN2C1=C(C=C2C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C35H36N8O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 489 mg, 96% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)N2CCNCC2 | C30H28N8
